US07312220B2
Preparation of 2-Amino-5-methyl benzoic acid (Compound 10)
To a solution of 5-methyl-2-nitrobenzoic acid (20 g, 110 mmol) in ethanol was added 10% Pd/C (1 g). The mixture was stirred overnight at room temperature under hydrogen atmosphere. The solution was filtered through celite and evaporated under reduced pressure to yield 16 g (96%) of white solids. M.P. 162° C. 1H NMR (DMSO-d6): δ 2.13 (s, 3H), 6.65 (d, J=8.6 Hz, 1H), 7.06 (dd, J=8.6, 1.8 Hz, 1H), 7.48 (d, J=1.1, 1H). EIMS m/z 174 (M+1), 152 (M+23).

reactant | 5-methyl-2-nitrobenzoic acid | 110 mmol, 20 g | CC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-Amino-5-methyl benzoic acid | 16 g, 96% | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
